US20010037042A1
Preparation of 2-pyridine-carboxylic Acid
Sodium carbonate (3.34 g, 32 mmols), 2-chloropyridine (2.38 g, 21 mmols) and 40 ml of ethanol are placed in a glass autoclave. The autoclave is rinsed with nitrogen and heated to 100° C. A solution of palladium bis(benzonitrile) dichloride (161 mg, 0.42 mmols) and dinorbornylphosphine (420 mg, 1.90 mmols) in 2 ml of ethanol (prepared under argon) is added, and then 5 bars CO are applied. After 16 hours at 120° C., the mixture is allowed to cool. The reaction mixture is taken up in water and methylene chloride. The aqueous phase is separated, acidified with concentrated hydrochloric acid and concentrated. The residue is extracted with ethanol and, after filtration, the ethanol is distilled off in a vacuum. The solid is recrystallised from water/ethanol/acetone. Yield of title compound as the hydrochloride: 2.13 g (64%).

reactant | Sodium carbonate | 32 mmols, 3.34 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloropyridine | 21 mmols, 2.38 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | dinorbornylphosphine | 1.90 mmols, 420 mg | C12(CCC(CC1)C2)PC21CCC(CC2)C1 | C14H23P
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium bis(benzonitrile) dichloride | 0.42 mmols, 161 mg | [Cl-].[Cl-].C(C1=CC=CC=C1)#N.C(C1=CC=CC=C1)#N.[Pd+2]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-pyridine-carboxylic Acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
